US08071768B2
4-[7-(3-piperazin-1-yl-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
4-[7-(3-piperazin-1-yl-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.05 mmol), prepared as described in Example 118, was dissolved in anhydrous DCM (1 mL) and treated with Et3N (0.05 mmol) followed by FMOC-Cl (0.1 mmol) and the mixture was stirred at rt overnight and then washed with water thrice, then dried over anhydrous MgSO4, filtered and concentrated in vacuo. To this was added 3M HCl/MeOH (1 mL) and the mixture was stirred at rt for 2 h and then concentrated in vacuo and the residue was dissolved in a 1:1 mixture of DCM:MeOH, neutralized with excess Et3N and treated with (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitrophenyl ester hydrochloride (0.06 mmol), as prepared by the method outlined in Example 66a. The mixture was stirred at rt overnight and then concentrated in vacuo and partitioned between water and DCM. DCM layer was drawn off, washed with water thrice, then dried over anhydrous MgSO4, filtered and concentrated in vacuo. The residue was purified by Preparative TLC (silica gel; DCM:MeOH:NH4OH; 90:9:1) to obtain the pure product. This was dissolved in anhydrous DCM (1 mL) and diethylamine (0.25 mL) was added and the mixture was stirred at rt overnight. It was then concentrated in vacuo and purified by Preparative TLC (silica gel; DCM:MeOH:NH4OH; 90:9:1) to obtain 2.8 mg (10%) of the title compound. 1H-NMR (300 MHz, CDCl3): 9.13 (s, 1H), 8.05 (d, 1H), 7.35-7.23 (m, 4H), 6.88 (d, 2H), 6.35 (s, 1H), 4.32-4.14 (m, 4H), 3.90-3.80 (m, 4H), 3.75-3.60 (m, 1H), 3.20-2.91 (m, 10H), 2.75-2.55 (m, 6H), 2.18-1.85 (m, 7H). LC/MS (ESI): 560.0 (MH)+.

reactant | 4-[7-(3-piperazin-1-yl-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.05 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCN1CCNCC1 | C25H37N5O3
reactant | Et3N | 0.05 mmol | CCN(CC)CC | C6H15N
reactant | FMOC-Cl | 0.1 mmol | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitrophenyl ester hydrochloride | 0.06 mmol | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCOCC1)=O
reactant | diethylamine | 0.25 mL | C(C)NCC | C4H11N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-[7-(3-piperazin-1-yl-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | 2.8 mg, 10% | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCN1CCNCC1 | C31H41N7O3
